*----------------------------------------------------------------------
* Sumida P/N: CDRH6D28NP_3R0_101NC (Inductor)
* Sec.No.S00746160
* Property: L=3.0uH_100uH at 100kHz
* Size(LxWxT): 
* Model Generated on Set.17.2013
*Ver01
*----------------------------------------------------------------------
* http://www.sumida.com/
*----------------------------------------------------------------------
* External Node Assignments:
*
*  1 ---QQQ--- 2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_3R0NC 1 2
L1 1 11 3.0u
C1 1 11 1.584p
R1 1 11 3.466k
R2 2 11 21.86m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_3R9NC 1 2
L1 1 11 3.9u
C1 1 11 1.299p
R1 1 11 4.528k
R2 2 11 22.2m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_5R0NC 1 2
L1 1 11 5.0u
C1 1 11 1.728p
R1 1 11 5.537k
R2 2 11 24.54m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_6R0NC 1 2
L1 1 11 6.0u
C1 1 11 1.704p
R1 1 11 6.208k
R2 2 11 30.66m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_7R3NC 1 2
L1 1 11 7.3u
C1 1 11 1.385p
R1 1 11 8.144k
R2 2 11 49.8m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_8R6NC 1 2
L1 1 11 8.6u
C1 1 11 1.583p
R1 1 11 8.86k
R2 2 11 53.3m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_100NC 1 2
L1 1 11 10u
C1 1 11 1.617p
R1 1 11 9.289k
R2 2 11 55.8m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_120NC 1 2
L1 1 11 12u
C1 1 11 1.672p
R1 1 11 10.586k
R2 2 11 60.7m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_150NC 1 2
L1 1 11 15u
C1 1 11 1.893p
R1 1 11 13.5k
R2 2 11 70.2m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_180NC 1 2
L1 1 11 18u
C1 1 11 1.818p
R1 1 11 15.4361k
R2 2 11 90.0m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_220NC 1 2
L1 1 11 22u
C1 1 11 1.994p
R1 1 11 17.357k
R2 2 11 100.9m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_270NC 1 2
L1 1 11 27u
C1 1 11 2.013p
R1 1 11 19.527k
R2 2 11 114.6m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_330NC 1 2
L1 1 11 33u
C1 1 11 2.363p
R1 1 11 25.698k
R2 2 11 130.5m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_390NC 1 2
L1 1 11 39u
C1 1 11 2.044p
R1 1 11 25.52k
R2 2 11 173.9m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_470NC 1 2
L1 1 11 47u
C1 1 11 1.853p
R1 1 11 31.86k
R2 2 11 196.4m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_560NC 1 2
L1 1 11 56u
C1 1 11 2.01p
R1 1 11 31.579k
R2 2 11 200.3m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_680NC 1 2
L1 1 11 68u
C1 1 11 2.381p
R1 1 11 37.671k
R2 2 11 237m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_820NC 1 2
L1 1 11 82u
C1 1 11 1.948p
R1 1 11 41.912k
R2 2 11 301.4m
.ENDS
*$
*----------------------------------------------------------------------
.SUBCKT CDRH6D28NP_101NC 1 2
L1 1 11 100u
C1 1 11 2.293p
R1 1 11 48k
R2 2 11 397m
.ENDS


